US09024027B2
To a solution of tert-butyl 2-(4-(N-(methylsulfonyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (548 mg, 1.267 mmol) in MeCN (5 ml), aqueous 2N NaOH (1457 μl, 2.91 mmol) was added, and the mixture was stirred at room temperature for 24 hours. The solvent was evaporated and the residue was diluted with water, acidified and extracted twice with ethyl acetate; the organic phase was washed with brine, dried over sodium sulfate and evaporated. The residue was purified by flash chromatography on silica gel (EtOAc/hexane 8/2) to obtain tert-butyl 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate as an off-white solid (196 mg, 0.553 mmol, 43.6% yield, MS/ESI+ 376.8 [MNa]+).

reactant | tert-butyl 2-(4-(N-(methylsulfonyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.267 mmol, 548 mg | CS(=O)(=O)N(S(=O)(=O)C)C1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C16H20N2O8S2
reactant | NaOH | 2.91 mmol, 2N, 1457 μl | [OH-].[Na+]
solvent | MeCN | 5 ml | CC#N | C2H3N
product | tert-butyl 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 43.6% yield | CS(=O)(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
